US09371319B2
Preparation 162: Isopropyl 6-bromo-2-(oxazol-5-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate
5-(6-Bromo-1H-pyrrolo[3,2-c]pyridin-2-yl)oxazole (Preparation 139, 156 mg 0.59 mmole) was azeotroped with benzene (3 mL) and then dissolved in DMF (1.5 mL). The solution was placed under nitrogen and a solution of sodium hexamethyldisilazide (1M in THF, 0.9 mL, 0.9 mmole) was added and stirred at room temperature for 20 minutes. A solution of isopropyl chloroformate (1M in toluene, 0.9 mL, 0.9 mmole) was added and stirred at room temperature for 4 hours. The reaction was diluted with ethyl acetate (25 mL) and the solution was washed with water (3×10 mL), brine, dried and evaporated to a residue. This was purified using preparative TLC eluting with 3:1 ethyl acetate:cyclohexane. The product band was recovered with acetone to afford the title compound (154 mg, 74%). 1H-NMR (CDCl3, 500 MHz): δ 1.36 (d, J=6.31 Hz, 6H), 5.23 (sept, J=6.31 Hz, 1H), 6.94 (d, J=0.63 Hz, 1H), 7.41 (s, 1H), 8.02 (s, 1H), 8.32 (t, J=0.95 Hz, 1H), 8.69 (d, J=0.95 Hz, 1H).

reactant | 5-(6-Bromo-1H-pyrrolo[3,2-c]pyridin-2-yl)oxazole | 0.59 mmole, 156 mg | BrC1=CC2=C(C=N1)C=C(N2)C2=CN=CO2 | C10H6BrN3O
reactant | benzene | 3 mL | C1=CC=CC=C1 | C6H6
reactant | sodium hexamethyldisilazide | 0.9 mmole, 1M, 0.9 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | isopropyl chloroformate | 0.9 mmole, 1M, 0.9 mL | ClC(=O)OC(C)C | C4H7ClO2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | Isopropyl 6-bromo-2-(oxazol-5-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 154 mg, 74% | BrC1=CC2=C(C=N1)C=C(N2C(=O)OC(C)C)C2=CN=CO2 | C14H12BrN3O3
